US08894976B2
In a 100 ml round bottom flask was placed 7.25 g (0.044 mol) of 2-Amino-4-tert-butylphenol, (Aldrich Cat #193282) with 6.0 g (0.055 mol) of Methyl acetimidate hydrochloride (Aldrich Cat #254940) with 50 ml of MeOH. This was refluxed for 4 hours. Then the MeOH was removed under vacuum. This was separated between 50 ml of ether and 50 ml of water. The ether was separated, dried, and removed under vacuum. Then 50 ml of hexanes was added to the resulting solid. Remaining 2-Amino-4-tert-butylphenol was insoluble in hexanes and was removed by filtration. The remaining oil was chromatographed using 2% MeOH/CH2Cl2 to provide 5-tert-butyl-2-methylbenzoxazole (Yield=2 g, 24%).

reactant | 2-Amino-4-tert-butylphenol | 0.044 mol, 7.25 g | NC1=C(C=CC(=C1)C(C)(C)C)O | C10H15NO
reactant | Methyl acetimidate hydrochloride | 0.055 mol, 6.0 g | Cl.C(C)(OC)=N
solvent | MeOH | 50 ml | CO | CH4O
product | 5-tert-butyl-2-methylbenzoxazole | Yield=2 g, 24% | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C)C1 | C12H15NO
